US05153201
3-(2,3-Dimethoxycinnamoyl)amino-δ-valerolactam
To a solution of 2,3-dimethoxycinnamic acid (5.0 g) in tetrahydrofuran (50 ml) was added N,N'-carbonyldiimidazole (4.28 g) and the mixture was stirred at room temperature for 30 minutes. To this was added 3-amino-δ-valerolactam (3.02 g), followed by stirring overnight. The reaction solution was diluted with chloroform and washed with a saturated soldium bicarbonate solution and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was chromatographed on a silica gel column to obtain the titled compound (2.91 g, 39.8%).

reactant | 2,3-dimethoxycinnamic acid | 5.0 g | COC1=C(C=CC(=O)O)C=CC=C1OC | C11H12O4
reactant | 3-amino-δ-valerolactam | 3.02 g | NC1CC(=O)NCC1 | C5H10N2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,3-Dimethoxycinnamoyl)amino-δ-valerolactam | 2.91 g, 39.8% | COC1=C(C=CC(=O)NC2CC(=O)NCC2)C=CC=C1OC | C16H20N2O4
